** this is a simple inverter model for testing the pwm signals
.subckt inverter dc_hi dc_lo dah dal dbh dbl dch dcl pha phb phc 
.model fet sw vt=0.5 vh=0.01 ron=1e-3 roff=10k
.model d d

* phase a
SaH dc_hi pha dah 0 fet OFF
daH pha dc_hi 0 d
cah pha dc_hi 0 100p

SaL pha dc_lo dal 0 fet OFF
dal dc_lo pha 0 d
cal dc_lo pha 0 100p

* phase b
SbH dc_hi phb dbh 0 fet OFF
dbH phb dc_hi 0 d
cbh phb dc_hi 0 100p

SbL phb dc_lo dbl 0 fet OFF
dbl dc_lo phb 0 d
cbl dc_lo phb 0 100p

* phase c
ScH dc_hi phc dch 0 fet OFF
dch phc dc_hi 0 d
cch phc dc_hi 0 100p

ScL phc dc_lo dcl 0 fet OFF
dcl dc_lo phc 0 d
ccl dc_lo phc 0 100p

.ends inverter